US04017492
To this solution of 7-chloro-2-[(1-carboxyethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine under nitrogen, is added with stirring, 50 ml. (0.015 mole) of an ethereal 0.3 molar solution of diazomethane. After 10 minutes the solution is evaporated giving 7-chloro-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine is obtained.

reactant | 7-chloro-2-[(1-carboxyethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)O)C2=CC=CC=C2)C1 | C18H15ClN4O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)OC)C2=CC=CC=C2)C1 | C19H17ClN4O2
